Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with history of stage IV cholangiocarcinoma, 
s/p biliary stenting, C7D17 gemcitabine/cisplatin presenting 
with fever to 101.2 at home. Patient had chemotherapy on ___ 
and felt very well afterwards.  Yesterday he felt great to the 
point where he was doing chores around the house and took out 
the trash.  Just before bedtime last night he felt a little off 
and asked his wife to take his temperature.  At that time he was 
afebrile.  He went to sleep and endorsed nightsweats overnight 
to the point where he took off all the heavy covers.  This 
morning when he woke up he just felt "bad."  There were no 
specific symptoms he could identify.  He did not have any 
chills/rigors but he did have a fever to 101.2.  His temperature 
transiently dropped to 99 but then increased again to 101.0 so 
patient presented to the ED.  

During this time, patient denies any abdominal pain, N/V.  He 
always has loose stools but has not had any unusual diarrhea.  
He has no urinary symptoms.  He has no true cough but does have 
phlegm that causes him to clear his throat frequently.  He had a 
cold in ___ and this has been the case ever since then-- he 
denies any throat pain.    

Of note, patient had an admission ___ with fevers and 
elevated Tbili. He had a CT abdomen which was concerning for 
stent obstruction, however as bilirubin improved on its own and 
cultures were negative, ERCP and further intervention was 
deferred. 

In ED, initial vitals were 100 87 126/58 97% on RA. Labs were 
notable for AST 87 and ALT 52, with Tbili 1.0 and AP 102, lipase 
28. WBC 6.0 and alctate 2.0.  Urinalysis and CXR without 
evidence of infection.  RUQ ultrasound was performed and showed 
on wet read unchanged biliary ductal dilatation, gallbladder 
sludge and gallbladder wall thickening without hydropic changes, 
also similar to prior abdominal ultrasound. After blood cultures 
were drawn, patient received ceftriaxone and metronidazole for 
presumed cholangitis and was admitted to ___ for further 
management.    
 
Review of Systems:  
(+) Per HPI  
(-) Denies recent weight loss or gain. Denies headache, sinus 
tenderness, rhinorrhea or congestion. Denies chest pain or 
tightness, palpitations, lower extremity edema. Denies cough, 
shortness of breath, or wheezes. Denies nausea, vomiting, 
diarrhea, constipation, abdominal pain, melena, hematemesis, 
hematochezia. Denies dysuria, stool or urine incontinence. 
Denies rashes or skin breakdown. All other systems negative.  
 
Past Medical History:
ONCOLOGIC HISTORY:
DIAGNOSIS: T3N2M0 (stage ___ unresectable extrahepatic
cholangiocarcinoma, seen C5D1 gemcitabine/cisplatin

ONCOLOGIC HISTORY:  
- ___: weight loss of about 20 lbs over 3 weeks. One day of
gastric distention, nausea and this resolved.  
- ___: started to develop intermittent nausea as well as a
change in his bowel movements, which were previously normal once
a day, becoming several times a day with soft stools.  He states
that over the summer, he was more fatigued than usual with
burping.  He presented to his primary care physician at which
point he had laboratory testing, and was referred for an
ultrasound of his liver followed by a CT of his abdomen.  He was
seen by gastroenterologist, Dr. ___, at ___ and was referred to ___ for ERCP.  
- ___: Admitted for ERCP. During that period, his
initial bilirubin was 1.6, his alkaline phosphatase 395, his AST
was 181, ALT 251 and his CA ___ was 172.  His CEA was within
normal limits.  During this admission, he had any ERCP, which
showed ductal dilation bilaterally, left more than right and a
plastic stent was placed in the left hepatic duct.  He was
discharged on ___ and during his admission, his maximum
bilirubin was 6.4. 
- ___: repeat ERCP which continue to show bilateral right
and left hepatic lobe ductal dilation with marked migration of
the stent into the small intestine.  He had bilateral plastic
stents placed at that time point.  During his initial workup, he
has also undergone a CT of his chest, which showed one small 
lung nodule of 3 mm in size and a MRCP of the abdomen, which 
indicated this ductal dilation and a mass at the bifurcation of 
the right anterior and left intrahepatic ducts worrisome for 
type IV ___ cholangiocarcinoma.  Cytology was 
suspicious for carcinoma. 
- ___: repeat ERCP with exchange of plastic for metal stent. 

- ___: start of cisplatin/gemcitabine cycle ___
- ___ seen in ED for BPV 
- ___ cycle ___: hospitalized for right biliary obstruction. ERCP to
clear stent of sludge/stones with blood ctx + pan sensitivite
enteroccocus
- ___: cycle 3, last dose ___ and ___: hospitalized for GNR bacteremia and
C. diff and then again for delerium, discharged home
- ___: C4 D1 Gem/Cis
- ___ completed CK radiation and resume C5D1 Gem/Cis
.
PMH:
GERD
___
BPH
Migraines controlled on Atenolol
Arthritis of the knees and shoulder on the right
 
Social History:
___
Family History:
His grandfather had a cancer of the bone.  He has no other 
family history of malignancy.

 
Physical Exam:
EXAM ON ADMISSION:
=============================
Vitals: T: 98.4 BP: 109/62 HR: 71 RR: 18 02 sat: 98%RA 
GENERAL:  well appearing gentleman, NAD
HEENT: PERRL, anicteric, MMM, no thrush or ulcers
CARDIAC:  RRR, no m/r/g
LUNG: CTAB, no w/r/r
ABDOMEN:  +NABS, soft, mild tenderness to palpation of RUQ, no 
masses appreciated, nondistended
EXTREMITIES:  No peripheral edema
PULSES:  2+ ___ pulses bilaterally
NEURO:  CN II-XII grossly intact, normal sensation, ___ strength 
bilaterally
SKIN:  small quarter sized area of erythema on left medial leg 
just above ankle.  No bleeding or prurulence, no tracking 
erythema.

EXAM ON DISCHARGE:
==============================
Vitals: T: 98.4 BP: 102/74 HR: 74  RR: 18 02 sat: 96%RA 
GENERAL:  well appearing gentleman, NAD
HEENT: PERRL, anicteric, MMM, no thrush or ulcers
CARDIAC:  RRR, no m/r/g
LUNG: CTAB, no w/r/r
ABDOMEN:  +NABS, soft, npontender, no masses appreciated, 
nondistended
EXTREMITIES:  No peripheral edema
PULSES:  2+ ___ pulses bilaterally
NEURO:  CN II-XII grossly intact, normal sensation, ___ strength 
bilaterally
SKIN:  dime sized area of erythema on left medial leg just above 
ankle which has improved since admission.  No bleeding or 
prurulence, no tracking erythema. 
 
Pertinent Results:
ADMISSION LABS:
=================================
___ 07:10AM   LACTATE-2.0
___ 07:00AM   GLUCOSE-190* UREA N-18 CREAT-1.0 SODIUM-138 
POTASSIUM-4.5 CHLORIDE-102 TOTAL CO2-23 ANION GAP-18
___ 07:00AM   ALT(SGPT)-52* AST(SGOT)-87* ALK PHOS-102 TOT 
BILI-1.0
___ 07:00AM   LIPASE-28
___ 07:00AM   ALBUMIN-4.4 CALCIUM-9.0 PHOSPHATE-3.8 
MAGNESIUM-2.0
___ 07:00AM   WBC-6.0 RBC-3.76* HGB-11.5* HCT-34.5* MCV-92 
MCH-30.5 MCHC-33.2 RDW-16.1*
___ 07:00AM   NEUTS-88.7* LYMPHS-8.1* MONOS-2.5 EOS-0.5 
BASOS-0.2
___ 07:00AM   PLT COUNT-95*
___ 07:00AM   ___ PTT-28.1 ___
___ 06:50AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 06:50AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG

PERTINENT LABS:
=================================
___ 07:45AM BLOOD WBC-2.7*# RBC-3.43* Hgb-10.5* Hct-31.8* 
MCV-93 MCH-30.5 MCHC-32.9 RDW-15.8* Plt Ct-83*
___ 07:45AM BLOOD ALT-47* AST-46* AlkPhos-98 TotBili-0.5

DISCHARGE LABS:
=================================
___ 07:40AM BLOOD WBC-2.4* RBC-3.50* Hgb-10.7* Hct-32.4* 
MCV-92 MCH-30.6 MCHC-33.1 RDW-15.6* Plt Ct-93*
___ 07:40AM BLOOD Glucose-126* UreaN-13 Creat-0.8 Na-139 
K-3.8 Cl-104 HCO3-26 AnGap-13
___ 07:40AM BLOOD ALT-60* AST-79* AlkPhos-175* TotBili-0.4
___ 07:45AM BLOOD Calcium-8.9 Phos-3.1 Mg-2.0

MICROBIOLOGY:
=================================
URINE CULTURE (Final ___:    <10,000 organisms/ml. 
BLOOD CULTURES x2 ___ NGTD

IMAGING:
=================================
CXR ___
FINDINGS: 
A 10-mm calcified granuloma is again noted in the right upper 
lobe.  Linear bilateral lower lobe opacities are again noted and 
likely representative of scarring or atelectasis.  Otherwise, 
the lungs are clear with no evidence of a consolidation, 
effusion, or pneumothorax.  Cardiac and mediastinal silhouettes 
are normal.  No acute fractures are identified.   
  
IMPRESSION:  
No acute cardiopulmonary process. 

RUQ U/S ___
IMPRESSION:  
1. Status post common bile duct stenting with expected 
pneumobilia. Moderate central intrahepatic biliary ductal 
dilatation. Allowing for differences in modality, the degree of 
intrahepatic biliary ductal dilatation is grossly unchanged from 
the CT of the abdomen and pelvis dated ___.    
  
2.  Gallbladder sludge. Slight interval decrease in the degree 
of gallbladder wall thickening, without hydropic changes.   
  
3.  Stable splenomegaly.  
 
Brief Hospital Course:
Mr. ___ is a ___ year old male with history of stage IV 
cholangiocarcinoma, s/p biliary stenting, C7D17 
gemcitabine/cisplatin presenting with fever to 101.2 at home. 

ACTIVE ISSUES:
==================================
#. Fever:  Patient felt very well day prior to admission and was 
afebrile but reported nightsweats overnight prior to admission.  
He had no other localizing symptoms on admission, no respiratory 
symptoms, no urinary symptoms or GI symptoms.  He did not had 
rigors like has had previously.  CXR was negative on admission 
and RUQ U/S was not significantly changed from prior exam.  ALT 
and AST very mildly elevated but no increase in T.bili to 
suggest obstructive process.  Was empirically treated with 
Cefepime/Flagyl, then monitored off antibiotics x24 hours.  He 
continued to remain afebrile and his blood cultures were NGTD at 
48 hours. 
 
#.  Stage IV Cholangiocarcinoma:  
==================================
Patient currently tolerating Gemcitabine/Cisplatin well at 
reduced dose.  He will continue chemotherapy per outpatient 
oncologist.

CHRONIC ISSUES: 
==================================
#.  Migraines: Continued Atenolol which patient reports is 
treatment for his migraines.  He did not have headaches this 
admission. 

#. BPH: Continued home Terazosin.

#. Allergies: continued home Flonase and Loratidine

#. Sleep: continued Olanzapine 5mg qhs

TRANSITIONAL ISSUES:
==================================
- patient will continue Gemcitabine/Cisplatin per outpatient 
Oncologist
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Fish Oil (Omega 3) 1000 mg PO DAILY 
3. MetronidAZOLE Topical 1 % Gel 1 Appl TP DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. OLANZapine 5 mg PO HS 
6. Pantoprazole 40 mg PO Q24H 
7. Terazosin 10 mg PO HS 
8. Fluticasone Propionate NASAL 2 SPRY NU BID 
9. Loratadine 10 mg PO DAILY 

 
Discharge Medications:
1. Atenolol 50 mg PO DAILY 
2. Fluticasone Propionate NASAL 2 SPRY NU BID 
3. Loratadine 10 mg PO DAILY 
4. MetronidAZOLE Topical 1 % Gel 1 Appl TP DAILY 
5. OLANZapine 5 mg PO HS 
6. Pantoprazole 40 mg PO Q24H 
7. Terazosin 10 mg PO HS 
8. Multivitamins 1 TAB PO DAILY 
9. Fish Oil (Omega 3) 1000 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Fever

Secondary: Stage IV cholangiocarcinoma s/p biliary stenting

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure caring you during your recent admission.  
You were admitted with fevers and were monitored closely to see 
if you had an infection in your biliary system or in your blood 
stream. There was no evidence of infection in either place and 
you will be discharged home off of antibiotics. 

We wish you all the best,
Your ___ Team
 
Followup Instructions:
___